US05912245
A mixture of 4.58 g (0.015 mole) of 1,2,3,4-tetrahydro-7-nitro-2,3-dioxo-6-quinoxalinesulfonyl chloride and 30 ml of 25% ammonium hydroxyde is stirred at a temperature between 5° C. and 10° C. for 3 hours and then allowed to stand for 16 hours. To the mixture 6 ml of acetic acid and 40 ml of water are added, the separated crystals are filtered off, washed with water and acetone, dried and dissolved in a slight amount of hot dimethyl sulfoxide. The product is precipitated from this solution with 2-propanol. Thus 1.40 g (17%) of 1,2,3,4-tetrahydro-7-nitro-2,3-dioxo-6-quinoxaline sulfonamide are obtained, m.p.: >330° C.

reactant | 1,2,3,4-tetrahydro-7-nitro-2,3-dioxo-6-quinoxalinesulfonyl chloride | 0.015 mole, 4.58 g | [N+](=O)([O-])C1=C(C=C2NC(C(NC2=C1)=O)=O)S(=O)(=O)Cl | C8H4ClN3O6S
reactant | ammonium | 30 ml | [NH4+]
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | water | 40 ml | O | H2O
product | 1,2,3,4-tetrahydro-7-nitro-2,3-dioxo-6-quinoxaline sulfonamide | 1.40 g, 17% | [N+](=O)([O-])C1=C(C=C2NC(C(NC2=C1)=O)=O)S(=O)(=O)N | C8H6N4O6S
